### PR TITLE
Implement and verify `u320_muladd`.

### PR DESCRIPTION
**Pull request by klinashka**
This PR verifies and implements the `u320_mulladd` function which performs the following: 

Input: a 320-bit number `p_v`, a 256-bit number `p_m`, a word `c_prime. The specification imposes that the variables do not alias. 
Output: `p_v` is updated as follows: `p_v += p_m * c_prime`. The carry limb `c` is returned.

### CODE REVIEW

File: src/Bedrock/P256/modinv/u320_muladd.v [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+Import coqutil.Tactics.Tactics.
+From coqutil Require Import WithBaseName.
+Local Open Scope string_scope. Local Open Scope Z_scope.
+
+(** * Specification *)
+
+Local Notation eval := (fold_right (fun (a : word) (s : Z) => a + 2^64*s) 0).
+Local Notation array := (array scalar (word.of_Z 8)).
+
+Local Instance spec_of_u320_muladd : spec_of "u320_muladd" :=
```
Comment (lukaszobernig) [inline src/Bedrock/P256/modinv/u320_muladd.v]: Will you use this spec in another file? If so, let's mark it as `#[export]` instead of `Local`.

File: src/Bedrock/P256/modinv/u320_muladd.v [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+    store(p_v + $8 + $8 + $8, s3);
+    store(p_v + $8 + $8 + $8 + $8, s4);
+
+    c = carry_t + carry_add
+}.
+
+(** * Proof *)
+
+Local Existing Instance spec_of_full_add.
+Local Existing Instance spec_of_full_mul.
```
Comment (lukaszobernig) [inline src/Bedrock/P256/modinv/u320_muladd.v]: Might be worth exporting them explicitly in the files that they are defined, but that will require a change to Bedrock2.

File: src/Bedrock/P256/modinv/u320_muladd.v [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+
+Local Ltac lists_into_elements := repeat match goal with
+  | H : length ?l = ?n |- _ =>  constr_eq true ltac:(isnatcst n);
+  let x := fresh l "0" in destruct l as [(*nil*)|x l]; inversion H; clear H end.
+
+Lemma lt_word_prod (w1 w2 : word) : w1 * w2 <= (2^64 - 1) * (2^64 - 1).
+Proof.
+    eapply Zorder.Zmult_le_compat; ZnWords.
+Qed.
```
Comment (lukaszobernig) [inline src/Bedrock/P256/modinv/u320_muladd.v]: Looks like this is unused?

**Review by lukaszobernig — COMMENTED** [review]
Looks good, thanks for the PR!

File: src/Bedrock/P256/modinv/u320_muladd.v (hunk 1 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_muladd.v]: Yes, this will be used in another file. I will mark it as `#[export]`

File: src/Bedrock/P256/modinv/u320_muladd.v (hunk 3 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_muladd.v]: Yes, indeed! Thanks for pointing this out. I removed it.

File: src/Bedrock/P256/modinv/u320_muladd.v (hunk 2 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_muladd.v]: That is a good suggestion! The change to bedrock2 has already been merged. Once that propagates to `fiat-crypto` I will make the necessary adjustments.
